US07375120B2
Preparation 4. 1-Benzyloxy-3-pentylazetidin-2-one
To a mixture of 2-hydroxymethyl-heptanoic acid benzyloxyamide (5.36 g, 20.23 mmol) and triphenylphosphine (5.31 g, 20.23 mmol) in THF (200 mL) at 0° C. was added dropwise diethyl azodicarboxylate (3.3 mL, 20.23 mmol). The reaction was stirred at room temperature overnight. The reaction was then quenched by adding water (200 mL). The aqueous layer was extracted with EtOAc (200 mL×2). The combined organic layer was washed with brine, and dried over MgSO4. After removing the solvent under vacuum, the residue was purified by flash column chromatography (hexane:EtOAc 5/1) to provide the title compound (4.68 g, 94%). 1H NMR (400 MHz, CHCl3) δ 7.35–7.25 (m, 5H), 4.87 (s, 2H), 3.28 (t, J=4.85 Hz, 1H), 2.84 (q, J=2.35 Hz, 1H), 2.77 (m, 1H), 1.62 (m, 1H), 1.36 (m, 1H), 1.25 –1.16 (m, 6H), 0.88 (t, J=6.9 Hz, 3H). MH+ 248.

reactant | 2-hydroxymethyl-heptanoic acid benzyloxyamide | 20.23 mmol, 5.36 g | C(C1=CC=CC=C1)ONC(C(CCCCC)CO)=O | C15H23NO3
reactant | triphenylphosphine | 20.23 mmol, 5.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 20.23 mmol, 3.3 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-Benzyloxy-3-pentylazetidin-2-one | 4.68 g, 94% | C(C1=CC=CC=C1)ON1C(C(C1)CCCCC)=O | C15H21NO2
